US07737166B2
7-Bromo-2-tert-butyl-5-methyl-6-(3-nitrophenyl)-1,3-benzoxazole-4-carbonitrile (I-18)
A mixture of N-(2-bromo-5-cyano-3-hydroxy-6-methyl-3′-nitrobiphenyl-4-yl)-2,2-dimethylpropionamide (I-15) (490 mg, 1.13 mmol), p-toluenesulfonic acid monohydrate (22 mg, 4.23 mmol) and toluene (50 ml) was heated under reflux for 3 hours. After cooling, the reaction liquid was diluted with ethyl acetate, successively washed with an aqueous saturated sodium hydrogencarbonate solution and saturated brine, dried on anhydrous magnesium sulfate, the solvent was evaporated away under reduced pressure to obtain a pale brown residue. The resulting residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=5:1) to obtain the entitled compound (433 mg, 93%) as a pale yellow solid.

reactant | N-(2-bromo-5-cyano-3-hydroxy-6-methyl-3′-nitrobiphenyl-4-yl)-2,2-dimethylpropionamide | 1.13 mmol, 490 mg | BrC1=C(C(=C(C(=C1O)NC(C(C)(C)C)=O)C#N)C)C1=CC(=CC=C1)[N+](=O)[O-] | C19H18BrN3O4
reactant | p-toluenesulfonic acid monohydrate | 4.23 mmol, 22 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-Bromo-2-tert-butyl-5-methyl-6-(3-nitrophenyl)-1,3-benzoxazole-4-carbonitrile | 433 mg, 93% | BrC=1C(=C(C(=C2N=C(OC21)C(C)(C)C)C#N)C)C2=CC(=CC=C2)[N+](=O)[O-] | C19H16BrN3O3
